datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[C:20](=[O:21])CCS1.C[N:220](C)[C:19]1=[CH:18][CH:17]=[C:16]([CH:15]=[C:14]2[CH:10]=[CH:11][CH:12]=[CH:13]2)[CH:67]=[CH:68]1>>C[N+:220](C)=[C:19]1[CH:18]=[CH:17][C:16](=[CH:15][C:14]2=[CH:13][CH:12]=[CH:11][CH:10]2[C:20]2([O-:21])CCSCC2)[CH:67]=[CH:68]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;20,21=21;220=19,220"
"C1=CN(C[C@@H]2CCC[NH:10]2)C=N1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([NH+:10]2CCC[C@H]2CN2C=CN=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:10]([O-:61])=[O:62])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([S+:10](C2=CC=CC=C2)([O-:61])=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10=20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CC(C)(C)[O:94][C:83]([N:12]1[C:11]([B-:72](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84]>>CC(C)(C)[O:94][C:83]([N+:12]1=[C:11]([B-:72](F)(F)F)[CH:10]([CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[C:11]1=[CH:10][CH:61]=[C:62](C)[N:12]1C>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]2[C:11](C)=[N+:12](C)[C:62](C)=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.[CH2:20]=[CH:21][C:22]#[N:23]>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.[H:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC[C:11](C)=[CH2:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CCC[C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"C1C[O:62][C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[O:12]1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>C1C[O:62][C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)=[O+:12]1.CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[H:10])=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>C[CH:10]([CH+:11][CH2:62][Si:63](C)(C)C)[CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
"Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21].[H][N-:10][C:61](C(F)(F)F)=[O:62]>>[H][N:10]([C:20]1([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]1Cl)[C:61](C(F)(F)F)=[O:62] 10=20;20,21=21"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.C[N+:21](C)=[CH:20]Cl>>CC(C)(C)[C:11]([CH2:10][CH:20](Cl)[N:21](C)C)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC(C)(C)[C:11](=[CH2:10])[NH:12][C:63](C)=[O:64]>>CC(C)(C)[C:11]([CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[NH+:12][C:63](C)=[O:64] 10,11=10,20;12=11,12"
"CC[O:72]/[C:11](=[CH:10]/[S+:61](C)C)[O-:12].Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>CC[O:72][C:11]([CH:10]([C:20]1([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]1Cl)[S+:61](C)C)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1>>CC(C)(C)[O:33][C:22](=[CH:21][CH2:20][H:10])[O-:23].CCC[C:11]1=[CH:12][CH+:13]CC1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12](C)C)=[O:62].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12](C)C)[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si:11](C)(Cl)[H:10]>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si+:11](C)Cl 10,11=10,20"
